US07396836B2
4-Ethoxy-6-(2-furyl)-5-(4-pyridyl)-2-pyrimidinylamine
The title compound was synthesized in a similar manner to Example 3 using 4-chloro-6-(2-furyl)-5-(4-pyridyl)-2-pyrimidinylamine and ethanol.

reactant | 4-chloro-6-(2-furyl)-5-(4-pyridyl)-2-pyrimidinylamine | ClC1=NC(=NC(=C1C1=CC=NC=C1)C=1OC=CC1)N | C13H9ClN4O
reactant | ethanol | C(C)O | C2H6O
product | 4-Ethoxy-6-(2-furyl)-5-(4-pyridyl)-2-pyrimidinylamine | C(C)OC1=NC(=NC(=C1C1=CC=NC=C1)C=1OC=CC1)N | C15H14N4O2
